US07179812B2
To a solution of tris(dibenzylideneacetone)dipalladium(0) (0.027 g, 0.03 mmol in dioxane (6 ml) tricyclohexylphosphine (0.084 g, 0.30 mmol) is added and the mixture stirred under argon for 30 min. A solution of 5-bromo-2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine (0.282 g, 1.0 mmol), bis(pinacolato)diboron (0.279 g, 1.1 mmol) and potassium acetate (0.147 g, 1.5 mmol) is added and the mixture is heated at 80° C. for 5 h. After cooling the mixture is concentrated in vacuo and the crude product is purified by flash column chromatography (ethyl acetate (100%)->ethyl acetate/tetrahydrofuran 1:1) yielding 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine-5-boronic acid as a beige solid. Yield 140 mg (57%).

reactant | dioxane | 0.30 mmol, 6 ml, 0.084 g | O1CCOCC1 | C4H8O2
reactant | 5-bromo-2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | 1.0 mmol, 0.282 g | BrC=1C=NC(=NC1)CCCCN1N=NC=C1 | C10H12BrN5
reactant | bis(pinacolato)diboron | 1.1 mmol, 0.279 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.5 mmol, 0.147 g | C(C)(=O)[O-].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine-5-boronic acid | N1(N=NC=C1)CCCCC1=NC=C(C=N1)B(O)O | C10H14BN5O2
